US08030318B2
To a mixture of 2,6-difluoronicotinic acid chloride (6.4 g), dissolved in acetonitrile (200 mL) was added 2-fluoro-5-chlorobenzamidine (6.73 g) and diisopropyl ethyl amine (24 mL). The mixture was heated to reflux for 2 h and cooled to room temperature. The mixture was concentrated under reduced pressure. The precipitate was filtered and washed with ether and dried under reduced pressure to afford the 2-(5-chloro-2-fluoro-phenyl)-7-fluoro-pyrido[2,3-d]pyrimidin-4-ol that was used without further purification.

reactant | 2,6-difluoronicotinic acid chloride | 6.4 g | FC1=C(C(=O)Cl)C=CC(=N1)F | C6H2ClF2NO
reactant | 2-fluoro-5-chlorobenzamidine | 6.73 g | FC1=C(C(=N)N)C=C(C=C1)Cl | C7H6ClFN2
reactant | diisopropyl ethyl amine | 24 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 2-(5-chloro-2-fluoro-phenyl)-7-fluoro-pyrido[2,3-d]pyrimidin-4-ol | ClC=1C=CC(=C(C1)C=1N=C(C2=C(N1)N=C(C=C2)F)O)F | C13H6ClF2N3O
